US06797718B2
Aqueous sodium hydroxide (510 mL of 2 M) was added to a solution of ethanol amine (61.0 g, 1.00 mol) in tetrahydrofuran (500 mL). The temperature of the reaction was maintained at 25° C. using a water bath. A solution of di-tert-butyl dicarbonate (218 g, 1.00 mol) in tetrahydrofuran (500 mL) was added dropwise over a period of one hour with rapid stirring, and a white precipitate formed. The reaction was stirred for 17 hours, and the tetrahydrofuran was removed under reduced pressure. The pH of the resulting slurry was adjusted to ˜2 by adding sulfuric acid (550 mL of 1M), and the resulting clear solution was extracted with ethyl acetate (3×500 mL). The combined extracts were washed thrice with water and twice with brine, dried over sodium sulfate, filtered, and concentrated under reduced pressure to provide 142.2 g of tert-butyl 2-hydroxyethylcarbamate as a colorless oil.

reactant | sodium hydroxide | 2 M, 510 mL | [OH-].[Na+]
reactant | ethanol amine | 1.00 mol, 61.0 g | C(O)CN | C2H7NO
reactant | di-tert-butyl dicarbonate | 1.00 mol, 218 g | C(=O)(OC(C)(C)C)OC(=O)OC(C)(C)C | C10H18O5
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 500 mL | O1CCCC1 | C4H8O
product | tert-butyl 2-hydroxyethylcarbamate | 142.2 g | OCCNC(OC(C)(C)C)=O | C7H15NO3
